US07034098B2
1.541 g (10.0 mmol) 3,5-dihyroxybenzoic acid, 2.732 g (20.0 mmol) 6-chlor-1-hexanol were dissolved in 20 ml toluene, and 0.2 ml of concentrated sulfuric acid was added thereto. The reaction mixture was then heated at reflux temperature for 20 hours, and was partitioned between ethyl acetate and a saturated sodium bicarbonate solution. The organic phase was washed repeatedly with water, dried over sodium sulfate, filtered and concentrated by rotary evaporation. Chromatography of the residue on 120 g silica gel using cyclohexane:ethyl acetate (7:3) as eluant yielded 2.3 g (84%) of 6-chlorohexyl 3,5-dihydroxybenzoate as orange oil.

reactant | 3,5-dihyroxybenzoic acid | 10.0 mmol, 1.541 g | OC=1C=C(C(=O)O)C=C(C1)O | C7H6O4
reactant | 6-chlor-1-hexanol | 20.0 mmol, 2.732 g | ClCCCCCCO | C6H13ClO
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 6-chlorohexyl 3,5-dihydroxybenzoate | 2.3 g, 84% | OC=1C=C(C(=O)OCCCCCCCl)C=C(C1)O | C13H17ClO4
